US04006159
Preparation of 1(and 2 and 4)-Butyryl-s-triazole-3-carboxamide
A suspension of 2 g. of 1,2,4-triazole-3-carboxamide and 7.5 g. of butyric anhydride is placed in an oil bath preheated to 155°-160° C. and heated at this temperature for 30 minutes. The residue is triturated with diethyl ether and returned to the oil bath with an additional 7.5 g. of butyric anhydride and heated for 30 minutes. The reaction mixture is allowed to cool. The solid which forms is triturated with diethyl ether and collected yielding 2.6 g. of colorless solid. The product is recrystallized from dry acetonitrile yielding 0.6 g. of colorless solid, m.p. 186°-188° C. (dec.).

reactant | 1,2,4-triazole-3-carboxamide | N1N=C(N=C1)C(=O)N | C3H4N4O
reactant | butyric anhydride | C(CCC)(=O)OC(CCC)=O | C8H14O3
product | Butyryl-s-triazole-3-carboxamide | C(CCC)(=O)C1=NC(=NN1)C(=O)N | C7H10N4O2
